US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.06 g) was reacted with 1-methylpiperidin-3-amine dihydrochloride similar to as described in Example 2 to afford 22.3 mg of (±) 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(1-methyl-3-piperidyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 470 (M)+. 1H NMR (400 MHz, DMSO) δ 11.28 (d, J=7.4 Hz, 1H), 8.59 (d, J=8.4 Hz, 1H), 8.34 (s, 1H), 7.83 (s, 1H), 7.01 (d, J=10.6 Hz, 1H), 5.48 (s, 1H), 5.08-4.88 (m, 2H), 4.63-4.46 (m, 2H), 3.99-3.83 (m, 1H), 2.74-2.64 (m, 1H), 2.48-2.42 (m, 1H), 2.06 (t, J=8.0 Hz, 1H), 1.97 (t, J=10.6 Hz, 1H), 1.75 (m, J=13.8 Hz, 2H), 1.59-1.51 (m, 1H), 1.49 (s, 6H), 1.36-1.19 (m, 1H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.06 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | 1-methylpiperidin-3-amine dihydrochloride | Cl.Cl.CN1CC(CCC1)N
product | (±) 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(1-methyl-3-piperidyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 22.3 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CN(CCC3)C)C=C1C#CC(C)(C)O | C24H28FN5O4
